US07112676B2
Diisopropylamine (1.10 mL; 7.85 mmol) (Aldrich) was dissolved in freshly distilled tetrahydrofuran (15 mL) and cooled to −78° C. n-Butyllithium (2.5 M in hexanes, 3.10 mL; 7.75 mmol) (Aldrich) was added dropwise and stirring continued for 30 minutes to give a LDA solution. A solution of 2,4-dichloropyrimidine (0.50 g; 3.36 mmol) (Aldrich) in tetrahydrofuran (3 mL) was added to this freshly prepared LDA solution over 12 minutes. After 30 minutes stirring at −78° C., propionaldehyde (0.48 mL; 6.65 mmol) (Aldrich) was added over 6 minutes and stirring continued for another 35 minutes. The reaction was quenched with the addition of 25% aqueous ammonium chloride solution (15 mL) and was then diluted with ethyl acetate and water. The organic phase was washed with a second portion of ammonium chloride solution and then brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified by flash chromatography (Biotage; 40M; 15:85 to 25:75 ethyl acetate-hexanes gradient) to give (±)-1-(2,4-dichloro-pyrimidin-5-yl)-propan-1-ol. (Yield 0.260 g; 37%).

reactant | 2,4-dichloropyrimidine | 3.36 mmol, 0.50 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | propionaldehyde | 6.65 mmol, 0.48 mL | C(CC)=O | C3H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (±)-1-(2,4-dichloro-pyrimidin-5-yl)-propan-1-ol | ClC1=NC=C(C(=N1)Cl)C(CC)O | C7H8Cl2N2O
